US04490292
2-(4-Chlorophenylmethylidene)-2H-1,4-benzothiazine-3(4H)-one (2.0 g) was reacted with sodium hydroxide (0.72 g) in methyl ethyl ketone (20 ml) at 80° C. for 30 minutes. After the solution turned clear, it was cooled to room temperature. N-(2-chloroethyl)morpholine hydrochloride (1.7 g) was added to the mixture. The organic solvent was evaporated under reduced pressure. The resulted yellow solid was filtered and washed with water and with methanol. It was recrystallized from a mixture of dimethylformamide and isopropyl alcohol. 2-(4-Chlorophenyl)-methylidene-4-(2-morpholinoethyl)-2H-1,4-benzothiazine-3(4H)-one (2.0 g) was obtained as yellow crystals, m.p. 173° to 175° C.

reactant | 2-(4-Chlorophenylmethylidene)-2H-1,4-benzothiazine-3(4H)-one | 2.0 g | ClC1=CC=C(C=C1)C=C1SC2=C(NC1=O)C=CC=C2 | C15H10ClNOS
reactant | sodium hydroxide | 0.72 g | [OH-].[Na+]
reactant | N-(2-chloroethyl)morpholine hydrochloride | 1.7 g | Cl.ClCCN1CCOCC1
reactant | methyl ethyl ketone | 20 ml | C(C)C(=O)C | C4H8O
product | 2-(4-Chlorophenyl)-methylidene-4-(2-morpholinoethyl)-2H-1,4-benzothiazine-3(4H)-one | 2.0 g | ClC1=CC=C(C=C1)C1S(C2=C(N(C1=O)CCN1CCOCC1)C=CC=C2)=C | C21H23ClN2O2S
